US06979741B2
(3R)-[3-(Morpholine-4-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-[6-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-quinolin-4-yl]-methanone
To a solution of (3R)-[1,4′]bipiperidinyl-3-yl-morpholin-4-yl-methanone (0.314 mmol, 100 mg) and 6-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-quinoline-4-carboxylic acid (0.346 mmol, 133 mg) in anhydrous dichloromethane was added 1-hydroxybenzotriazole hydrate (0.157 mmol, 21 mg) followed by diisopropylethylamine (0.942 mmol, 0.163 mL) then benzotriazo-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP, 0.942 mmol, 417 mg). The solution was stirred at ambient temperature for 16 hr, diluted with dichloromethane and washed with 1M potassium hydroxide solution. The aqueous layer was separated and extracted with dichloromethane (2×25 mL). The combined organic layers were dried over anhydrous sodium sulfate and evaporated to dryness under vacuum. The residue was redissolved in toluene, evaporated to dryness and purified by chromatography on a 1 mm silica gel rotor eluting with a 0 to 10% methanol in dichloromethane gradient. Final purification from residual hexamethylphosphoramide was achieved by precipitation of the hydrochloride salt (as described above in Example 6), trituration with 1M potassium hydroxide solution, filtration and rinsing with water to give the title compound (46 mg, 23%).

reactant | (3R)-[1,4′]bipiperidinyl-3-yl-morpholin-4-yl-methanone | 0.314 mmol, 100 mg | N1(C[C@@H](CCC1)C(=O)N1CCOCC1)C1CCNCC1 | C15H27N3O2
reactant | 6-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-quinoline-4-carboxylic acid | 0.346 mmol, 133 mg | FC(C=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O)(F)F | C18H9F6NO2
reactant | 1-hydroxybenzotriazole hydrate | 0.157 mmol, 21 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.942 mmol, 0.163 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3R)-[3-(Morpholine-4-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-[6-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-quinolin-4-yl]-methanone | 46 mg, 23% | N1(CCOCC1)C(=O)[C@H]1CN(CCC1)C1CCN(CC1)C(=O)C1=CC(=NC2=CC=C(C=C12)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C33H34F6N4O3
